US04190561
A 1 liter flask, provided with a mechanical stirrer, a heater and a reflux condenser fitted with a calcium chloride drying tube, is charged with 190.8 g of 1,5,5-trimethyl-4-(1-hydroxyethyl)-cyclohex-1-ene and 173.8 g of acetic anhydride. The mixture is brought to 100° for 4 hours. After cooling, the mixture is immersed in 250 ml of water and extracted with 3 times 100 ml of benzene. The extract is then washed once with 100 ml of water, twice with 100 ml of a 9% solution of sodium bicarbonate and twice more with 100 ml of water. The solvent is distilled off on a water bath, finally, under a pressure of 30 mm of mercury; the crude ester is distilled in a 500 ml three-necked flask fitted with a 1 meter adiabatic column filled with unoxidisable 4×4 mm particles, under a vacuum of 0.5 mm of mercury. 197 g of 1,5,5-trimethyl-4-(1 -acetoxyethyl)-cyclohex-1-ene (81.3%) are obtained having the following physical properties:

reactant | 1,5,5-trimethyl-4-(1-hydroxyethyl)-cyclohex-1-ene | 190.8 g | CC1=CCC(C(C1)(C)C)C(C)O | C11H20O
reactant | acetic anhydride | 173.8 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 250 ml | O | H2O
product | 1,5,5-trimethyl-4-(1 -acetoxyethyl)-cyclohex-1-ene | 197 g, 81.3% | CC1=CCC(C(C1)(C)C)C(C)OC(C)=O | C13H22O2
